US07247646B2
B. 6-Bromo-4-(4-hydroxy-benzyl)-7-methoxy-3-(4-trifluoromethyl-phenyl)-chromen-2-one
A mixture of 1-(5-bromo-2-hydroxy-4-methoxy-phenyl)-2-(4-hydroxy-phenyl)-ethanone (0.64 g, 1.9 mmol), 4-trifluoromethylphenylacetic acid (0.78 g, 3.8 mmol), carbonyl diimidazole (0.62 g, 3.8 mmol), N,N-dimethylaminopyridine (0.12 g, 1.0 mmol), and potassium carbonate (0.52 g, 3.8 mmol) in DMF (15 mL) was heated within an 80° C. oil bath overnight. The cooled reaction mixture was poured into water and extracted with EtOAc. Organic extracts were combined and washed with water and saturated sodium chloride in succession, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting material purified using silica gel flash column chromatography (1:2 EtOAc:hexanes) to provide the title compound (0.82 g, 85%). MS (ESI) m/z 505.0 (M+1)+, 507.0 (M+1+2)+.

reactant | 1-(5-bromo-2-hydroxy-4-methoxy-phenyl)-2-(4-hydroxy-phenyl)-ethanone | 1.9 mmol, 0.64 g | BrC=1C(=CC(=C(C1)C(CC1=CC=C(C=C1)O)=O)O)OC | C15H13BrO4
reactant | 4-trifluoromethylphenylacetic acid | 3.8 mmol, 0.78 g | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | carbonyl diimidazole | 3.8 mmol, 0.62 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | potassium carbonate | 3.8 mmol, 0.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-Bromo-4-(4-hydroxy-benzyl)-7-methoxy-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 0.82 g, 85% | BrC=1C=C2C(=C(C(OC2=CC1OC)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)O | C24H16BrF3O4
